US06914074B2
1-Chloro-6-(2-chloro-4-hydroxyphenyl)-2-naphthol
The title compound was prepared by reacting 6-(2-chloro-4-hydroxyphenyl)-2-naphthol (500 mg, 1.85 mmol) and NCS (321 mg, 2.40 mmol) in THF (40 mL) according to method C to yield 435 mg (77%) of yellowish solid: mp 224-226° C.; 1H NMR (DMDO-d6): δ 6.86 (1H, dd, J=8.42 Hz, J=2.41 Hz), 6.96 (1H, d, J=2.44 Hz), 7.30 (1H, d, J=3.19 Hz), 7.33 (1H, d, J=2.65 Hz), 7.62 (1H, dd, J=8.81 Hz, J=1.71 Hz), 7.83 (1H, d, J=8.93 Hz), 7.86 (1H, d, J=1.54 Hz), 8.04 (1H, J=8.76 Hz), 10.04 (1H, s), 10.51 (1H, s); 13C NMR (DMDO-d6): δ 112.24, 114.84, 116.26, 118.79, 121.84, 128.16, 128.24, 128.35, 129.27, 130.03, 130.40, 131.73, 132.38, 133.98, 151.24, 157.70; MS (ESI) m/z 303/305/307 (M−H)−.

reactant | 6-(2-chloro-4-hydroxyphenyl)-2-naphthol | 1.85 mmol, 500 mg | ClC1=C(C=CC(=C1)O)C=1C=C2C=CC(=CC2=CC1)O | C16H11ClO2
reactant | NCS | 2.40 mmol, 321 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 1-Chloro-6-(2-chloro-4-hydroxyphenyl)-2-naphthol | ClC1=C(C=CC2=CC(=CC=C12)C1=C(C=C(C=C1)O)Cl)O | C16H10Cl2O2
